2192-11-27 05:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2192-11-26**] 03:00 PM
 DIALYSIS CATHETER - START [**2192-11-26**] 04:37 PM
 ARTERIAL LINE - START [**2192-11-26**] 08:12 PM
 BLOOD CULTURED - At [**2192-11-26**] 11:00 PM
     * HD
     * Fomepizole Q4h during HD/CVVH
     * Awoke during HD -> agitated -> versed boluses
     * 10p ABG: 7.42/36/86/24
     * 4a ABG: 7.38/47/91/25
     * Free Ca low -> several doses of calcium gluconate given
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Metronidazole
   Ceftriaxone
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to assess
   Flowsheet Data as of  [**2192-11-27**] 05:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 66 (66 - 165) bpm
   BP: 123/60(77) {85/46(60) - 131/63(83)} mmHg
   RR: 15 (14 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  5,304 mL
                                                                  2,152 mL
   PO:
             TF:
   IVF:
                                                                  5,304 mL
                                                                  2,152 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    101 mL
   Urine:
                                                                    120 mL
                                                                     12 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  4,984 mL
                                                                  2,051 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 737 (361 - 1,793) mL
   PS : 10 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.38/47/91/25/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 182
   Physical Exam:
   Gen:  Intermittently agitated, especially with stimulation. Intubated
   on mechanincal ventillation, withdrawing to pain but not following
   commands
   HEENT:  Pupils round, mucous membranes moist
   Heart:  S1S2 regular rate, irreglulary irregular, no murmur or rubs
   heard.
   Lungs:  B/L crackles in anterior lung fields
   Abdomen:  Soft, may be slightly ttp diffusely (patient increasingly
   agitated w/abdominal palpation)
   Ext:  WWP, DP 2+ b/l, no edema
   Neuro:  Agitated, not following commands, moves all extremities and
   withdraws from pain
   Labs / Radiology
   203
   12.4
   137
   2.5
   27 mEq/L
   3.6
   13 mg/dL
   99
   140 mEq/L
   34.4
   20.5
        [image002.jpg]
                             [**2192-11-26**]  09:03 PM
                             [**2192-11-26**]  10:09 PM
                             [**2192-11-26**]  10:49 PM
                             [**2192-11-27**]  04:46 AM
   WBC
   26.7
   Hct
   38.0
   Plt
   245
   Cr
   1.8
   TropT
   <0.01
   <0.01
   TCO2
   24
   29
   Glucose
   127
   124
   Other labs:
   Ca++:6.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Free Ca 0.95
   Lactate 6.5 -> 6.8 -> 3.0 (repeat in green top tube)
   CK 158 -> 155; MB 8 -> 8; Troponin <0.01 -> <0.01
   Assessment and Plan:  37 y/o gentleman with depression, prior suicidal
   ideation and substance abuse presented with altered mental status.
   .
   # Acid/base disturbance:  Anion gap metabolic acidosis with increased
   osmolarity to 373 consistent with ethylene glycol toxicity.  anion gap
   around 30 represent sig metabolism of ethylene glycol. Treated
   w/bicarb, fomepizole Q4h b/c of HD, HD, and CVVH. Anion gap to 14 this
   morning and acidosis is resolved after HD and CVVH.
   - CVVH until Ethylene glycol <20
   - monitor electrolytes post d/c CVVH
   .
   # Altered Mental status:  Most likely initially due to ethylene glycol
   toxicity, now with sedation overnight for mechanical ventilation.
   Urine shows oxalate crystals.  CT head at OSH did not show any acute
   changes.  LP was within normal limits at OSH.
   - femoral HD line is placed and patient will receive HD, may need CVVH
   after that overnight
   - ethylene glycol level is 314, resend the levels post dialysis (send
   to [**Hospital1 1910**] [**Telephone/Fax (1) 2534**] or [**Telephone/Fax (1) 2535**])
   - need to recheck lytes (gap) and pH post dialysis and give bicarb as
   needed
   - thiamine 100 mg daily, folic acid 50 mg IV q4h and pyridoxine 50 mg
   q6h for 24 hours
   - fomipezole 10 mg/kg q4h during dialysis.
   - IVF prn
   - appreciate toxicology recs
   - appreciate nephrology recs.
   .
   # Hyperkalemia:  K is 6 with tented T waves. K improved w/HD and
   correction of academia.
   - to follow lytes after CVVH finished
   .
   # Acute renal failure:  With normal BUN suggestive for intrinsic renal
   disease secondary to ethylene glycol toxicity. Cr increased to 2.5 this
   am. Nephrology following. Given IVF.
   - appreciate nephrology recs
   - continue IVF
   - pm electrolytes
   .
   # s/p fall: Currently on hard collar.  CT head at OSH without sig
   abnormalities and poor quality neck films.
   - switch collar to [**Location (un) 239**]-J until able to clinically clear
   - consider imaging if unable to clinically clear
   .
   # Atrial fibrillation:  Unclear etiology. Rapid ventricular response
   resolved throughout the night w/sedation, HD, hydration.  B-blocker
   held due to recent cocaine use, holding off on CCB for now given this
   is probably physiologic response to keep his CO adequate.
   - IVF prn
   - echo
   .
   # Elevated lactate:  Could be falsely elevated due to ethylene glycol
   toxicity.  However given elevated WBC to 40 needs to rule out
   infection.  LP unremarkable as above.  CXR with LUL infiltrate.
   Improved this am when checked w/green top tube, although when checked
   w/abg was stable, slightly elevated. UA w/moderate bacteria but no WBC.
   - Ceftriaxone and flagyl to cover for PNA, most likely aspiration
   - follow BCx
   - follow UCx
   .
   # Leukocytosis/LUL infiltrate:  No bandemia.  LUL CXR as above.  Other
   workup as above.
   - trend with diff
   - CTX and flagyl
   .
   # Coccaine abuse/Depression:
   - will check CK.
   - needs social work and psychiatry involvement once out of acute phase
   .
   #UGI bleeding: blood from NG tube before patient self-d/c.
   - [**Hospital1 **] PPI
   - re-place NG, if still w/blood, call GI.
   .
   # FEN:  NPO for now
   .
   # Prophylaxis:  sc heparin, pneumoboots, [**Hospital1 **] PPI
   .
   # Code:  Full Code
   .
   # Contact: Sister [**Name (NI) 107**] [**Name (NI) 2536**] [**Telephone/Fax (1) 2537**], Mother [**Name (NI) 141**] [**Name (NI) 2538**]
   [**Telephone/Fax (1) 2539**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-11-26**] 03:24 PM
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   20 Gauge - [**2192-11-26**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-11-28 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-11-27**] 09:00 AM
   -renal recs: off CVVHD ok, give 120 IV lasix w/1L NS and monitor UOP.
   Repeat lytes and check levels.
   ---EG 52, continued fomepizole. Restarted CVVH.
   -TTE report enlarged RA otherwise normal
   -osmolar gap closed w/treatment.
   -[**Location (un) 239**] J collar placed, OG tube placed
   -social work consult
   -Afib ? need for cardioversion, anticoagulation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-11-27**] 10:09 AM
   Metronidazole - [**2192-11-28**] 01:06 AM
   CTX switched to Levo
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-27**] 10:03 PM
   Heparin Sodium (Prophylaxis) - [**2192-11-27**] 10:03 PM
   Other medications:
   Pryidoxine
   Thiamin
   Colace
   Senna
   Folic acid 1mg daily
   Femepizole
   Heparin SQ
   ISS
   chlorhexidine
   Changes to medical and family history: Home meds: methocaramol 500mg
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-28**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 83 (61 - 93) bpm
   BP: 133/64(80) {133/64(80) - 133/64(80)} mmHg
   RR: 20 (9 - 21) insp/min
   SpO2: 98% (93-100)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                 11,016 mL
                                                                  2,849 mL
   PO:
             TF:
   IVF:
                                                                 11,016 mL
                                                                  2,849 mL
   Blood products:
   Total out:
                                                                  4,776 mL
                                                                  1,721 mL
   Urine:
                                                                     59 mL
                                                                     30 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                  6,240 mL
                                                                  1,128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (551 - 551) mL
   Vt (Spontaneous): 572 (572 - 714) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: 7.40/40/113/25/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 226
   Physical Exam:
   Gen:  Intermittently agitated, especially with stimulation. Intubated
   on mechanincal ventillation, withdrawing to pain and opening eyes but
   not following commands
   HEENT:  Pupils round, mucous membranes moist
   Neck: Hard collar on
   Heart:  S1S2 regular rate, regular, no murmur or rubs heard.
   Lungs:  B/L coarse BS in anterior lung fields
   Abdomen:  Soft, No grimace with palpation, nondistended
   Ext:  WWP, DP 2+ b/l, no edema
   Neuro:  Agitated, not following commands, moves all extremities and
   withdraws from pain
   Tele: 1.5 sec pauses
   Labs / Radiology
   170 K/uL
   11.2 g/dL
   91 mg/dL
   3.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   14 mg/dL
   98 mEq/L
   133 mEq/L
   30.9 %
   14.8 K/uL
        [image002.jpg]
   Cr: 3.1 to 3.4 to 3.2
   Free ca 1.11 to 1.08 to 0.97
   Ethylene glycol:  314 to 81 to 52 to 40 to 32, [**11-28**] afternoon level to
   be sent
   Blood cult pending [**11-26**]
                             [**2192-11-27**]  04:46 AM
                             [**2192-11-27**]  09:49 AM
                             [**2192-11-27**]  10:15 AM
                             [**2192-11-27**]  05:36 PM
                             [**2192-11-27**]  06:27 PM
                             [**2192-11-27**]  09:53 PM
                             [**2192-11-27**]  09:55 PM
                             [**2192-11-28**]  02:57 AM
                             [**2192-11-28**]  03:07 AM
                             [**2192-11-28**]  04:36 AM
   WBC
   16.4
   14.8
   Hct
   34.2
   33.4
   32.4
   30.9
   Plt
   163
   170
   Cr
   2.7
   3.1
   3.4
   3.2
   TCO2
   29
   30
   25
   25
   24
   26
   Glucose
   124
   111
   113
   87
   134
   91
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:155/8/<0.01, ALT / AST:14/25, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:82.7 %, Lymph:12.3 %, Mono:4.4 %, Eos:0.4 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:262 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan:  37 y/o gentleman with depression, prior suicidal
   ideation and substance abuse presented with altered mental status.
   .
   # Acid/base disturbance:   Presented with Anion gap metabolic acidosis
   with increased osmolarity to 373 consistent with ethylene glycol
   toxicity.  anion gap  around 30 represent sig metabolism of ethylene
   glycol. Treated w/bicarb, fomepizole Q4h b/c of  CVVH. Anion gap to 12
   this morning and acidosis is resolved after HD and CVVH.  Osmolar gap
   closed
   - CVVH until Ethylene glycol <20
   - monitor electrolytes post d/c CVVH
   - Replete Ca, Mg aggressively
   .
   # Altered Mental status:  Most likely initially due to ethylene glycol
   toxicity, now with sedation overnight for mechanical ventilation.
   Urine shows oxalate crystals.  CT head at OSH did not show any acute
   changes.  LP was within normal limits at OSH.
   - femoral HD line in placd and patient will  continue to receive CVVH
   until EG cleared. [**Month (only) 11**] need HD afterward if UO does not restart
   - ethylene glycol level on presentation 314, trending levels [**Hospital1 **] to TID
   (send to [**Hospital1 1910**] [**Telephone/Fax (1) 2534**] or [**Telephone/Fax (1) 2535**]). [**11-28**] 3am level was 32.
   -q6h  lytes while on CVVH
   - thiamine 100 mg daily, folic acid 1mg daily and pyridoxine 100mg
   daily
   - fomipezole 10 mg/kg q4h during CVVH
   -continue propofol, weaning as tolerated, titrate for agitation.
   - appreciate toxicology recs
   - appreciate nephrology recs.
   .
   # Hyperkalemia:  K of 6 with tented T waves on presentation. K improved
   w/HD and correction of academia.
   - to follow lytes after CVVH finished
   .
   # Acute renal failure:  With normal BUN suggestive for intrinsic renal
   disease secondary to ethylene glycol toxicity. Cr stable in low 3s.
   Nephrology following. Given IVF yesterday with lasix 120mg IV with only
   50 cc UO.
   - appreciate nephrology recs
   - continue CVVH with goal to remove 1L negative today
   - q6h electrolytes check
   .
   # s/p fall: Currently on hard collar.  CT head at OSH without sig
   abnormalities and poor quality neck films.
   - switched collar to [**Location (un) 239**]-J until able to clinically clear
   - consider imaging if unable to clinically clear
   .
   # Atrial fibrillation:  Unclear etiology. Rapid ventricular response
   resolved throughout the night w/sedation, HD, hydration.  B-blocker
   held due to recent cocaine use, holding off on CCB for now given this
   is probably physiologic response to keep his CO adequate.
   - returned to NSR [**11-27**] to [**11-28**]
   - echo: [**11-27**], Preserved regional and global biventricular systolic
   function. No structural valvular disease.
   .
   # Elevated WBC:  Elevated lactate Could be falsely elevated due to
   ethylene glycol toxicity, lactate level now normal.  However given
   elevated WBC to 40 needs to rule out infection.  LP unremarkable as
   above.  CXR with LUL infiltrate. UA w/moderate bacteria but no WBC.
   - Ceftriaxone and flagyl to cover for PNA, most likely aspiration to
   complete a 5 day course
   - follow BCx
   - follow UCx
   .
   # Leukocytosis/LUL infiltrate:  No bandemia.  LUL CXR as above.  Other
   workup as above.
   - trend with diff
   - CTX and flagyl
   .
   # Coccaine abuse/Depression:
   - CK now normal at 155.
   - needs social work and psychiatry involvement once out of acute phase
   .
   #UGI bleeding: blood from NG tube before patient self-d/c.  None since
   first day of admission
   - [**Hospital1 **] PPI
   - OG was placed
   .
   # FEN:  NPO for now, when has BM and concern for ileus resolves get
   nutrition consult for TF
   .
   # Prophylaxis:  sc heparin, pneumoboots, [**Hospital1 **] PPI, BM reg
   .
   #Access: L  PICC [**11-28**], R a line, R fem HD line
   .
   # Code:  Full Code
   .
   # Contact: Sister [**Name (NI) 107**] [**Name (NI) 2536**] [**Telephone/Fax (1) 2537**], Mother [**Name (NI) 141**] [**Name (NI) 2538**]
   [**Telephone/Fax (1) 2539**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-11-26**] 03:24 PM
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   20 Gauge - [**2192-11-26**] 09:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-11-28 09:14:00 Physician Attending Progress Note
Chief Complaint: ethlyene glycol intoxication
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man  ethlyene glycol
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-11-27**] 09:00 AM
   Ethlyene glycol levels was 52 11:00AM yest AM,  40 at 6:00pm last
   night, and value at 3:00AM last night is pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-11-27**] 10:09 AM
   Metronidazole - [**2192-11-28**] 08:11 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Propofol - 60 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-27**] 10:03 PM
   Heparin Sodium (Prophylaxis) - [**2192-11-28**] 08:11 AM
   Other medications:
   fomepizole
   folate
   pyradoxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-28**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 84 (62 - 93) bpm
   BP: 158/106(121) {107/53(68) - 158/106(121)} mmHg
   RR: 20 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                 11,017 mL
                                                                  3,835 mL
   PO:
             TF:
   IVF:
                                                                 11,017 mL
                                                                  3,835 mL
   Blood products:
   Total out:
                                                                  4,776 mL
                                                                  2,511 mL
   Urine:
                                                                     59 mL
                                                                     30 mL
   NG:
   400 mL
   Stool:
   Drains:
   Balance:
                                                                  6,241 mL
                                                                  1,324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (551 - 551) mL
   Vt (Spontaneous): 572 (572 - 714) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/40/113/25/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Non -purposeful, Tone: Not assessed,
   extremities no longer stiff
   Labs / Radiology
   11.2 g/dL
   170 K/uL
   91 mg/dL
   3.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   14 mg/dL
   98 mEq/L
   133 mEq/L
   30.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2192-11-27**]  04:46 AM
                             [**2192-11-27**]  09:49 AM
                             [**2192-11-27**]  10:15 AM
                             [**2192-11-27**]  05:36 PM
                             [**2192-11-27**]  06:27 PM
                             [**2192-11-27**]  09:53 PM
                             [**2192-11-27**]  09:55 PM
                             [**2192-11-28**]  02:57 AM
                             [**2192-11-28**]  03:07 AM
                             [**2192-11-28**]  04:36 AM
   WBC
   16.4
   14.8
   Hct
   34.2
   33.4
   32.4
   30.9
   Plt
   163
   170
   Cr
   2.7
   3.1
   3.4
   3.2
   TCO2
   29
   30
   25
   25
   24
   26
   Glucose
   124
   111
   113
   87
   134
   91
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:155/8/<0.01, ALT / AST:14/25, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:82.7 %, Lymph:12.3 %, Mono:4.4 %, Eos:0.4 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:262 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Imaging: ionized CA 0.97
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Will continue CVVH
   for now to remove fluid.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O ADVERSE DRUG EVENT (ADR, ADE, MEDICATION TOXICITY)
 .H/O ACIDOSIS, METABOLIC:  Lactic acidosis and AG have normalized.
 ELECTROLYTE & FLUID DISORDER, OTHER
   Ethlyene glycol intoxication:  osmolar gap is down to 4, but will
   continue fomepizole until level is <20 as if it is fat soluble, it may
   still be present and leach out.  Await 3:00AM level, if high, recheck,
   if <20, can stop fomepizole.
   Rigidity:  Unclear if this was agitation.   He was also on a  muscle
   relaxant which has been stopped - this can cause withdrawl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-11-26**] 03:24 PM
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   20 Gauge - [**2192-11-26**] 09:53 PM
   Comments: Will put in for PIC consult
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2192-11-29 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2192-11-28**] 10:18 AM
   double lumen picc line placed
   .
   -Eythene glycol less than 20, stoped femipezole
   -CVVH clotted off around 10pm and kept off
   - Resp alk, went down on Fio2 from 50 to 40, RR decreased. Called at
   230, did not tolerate, increased setting back
   -multiple family meetings yesterday, parents joint HCP
   Allergies:
   [**Name2 (NI) 83**] Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-11-28**] 10:00 AM
   Levofloxacin - [**2192-11-28**] 03:00 PM
   Metronidazole - [**2192-11-29**] 12:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-28**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 90 (83 - 101) bpm
   BP: 101/60(74) {101/60(74) - 176/106(121)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                  8,744 mL
                                                                    390 mL
   PO:
             TF:
   IVF:
                                                                  8,594 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  9,607 mL
                                                                    662 mL
   Urine:
                                                                     95 mL
                                                                     12 mL
   NG:
                                                                    900 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/39/113/26/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Gen:  Intermittently agitated, especially with stimulation. Intubated
   on mechanincal ventillation, withdrawing to pain and opening eyes but
   not following commands
   HEENT:  Pupils round, mucous membranes moist
   Neck: Hard collar on
   Heart:  S1S2 regular rate, regular, no murmur or rubs heard.
   Lungs:  B/L coarse BS in anterior lung fields
   Abdomen:  Soft, No grimace with palpation, nondistended
   Ext:  WWP, DP 2+ b/l, no edema
   Neuro:  Agitated, not following commands, moves all extremities and
   withdraws from pain
   Tele: 1.5 sec pauses
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   11.3 g/dL
   96 mg/dL
   4.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   18 mg/dL
   97 mEq/L
   133 mEq/L
   30.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2192-11-28**]  03:07 AM
                             [**2192-11-28**]  04:36 AM
                             [**2192-11-28**]  09:43 AM
                             [**2192-11-28**]  09:56 AM
                             [**2192-11-28**]  03:43 PM
                             [**2192-11-28**]  03:53 PM
                             [**2192-11-28**]  10:07 PM
                             [**2192-11-28**]  10:19 PM
                             [**2192-11-29**]  02:06 AM
                             [**2192-11-29**]  03:32 AM
   WBC
   11.7
   11.0
   Hct
   29.6
   30.4
   Plt
   185
   191
   Cr
   3.0
   3.3
   3.8
   4.5
   TCO2
   24
   26
   27
   27
   25
   25
   Glucose
   90
   86
   110
   106
   94
   96
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:155/8/<0.01, ALT / AST:14/25, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:82.7 %, Lymph:12.3 %, Mono:4.4 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:262 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan:  37 y/o gentleman with depression, prior suicidal
   ideation and substance abuse presented with altered mental status.
   .
   # Acid/base disturbance:   Presented with Anion gap metabolic acidosis
   with increased osmolarity to 373 consistent with ethylene glycol
   toxicity.  anion gap  around 30 represent sig metabolism of ethylene
   glycol. Treated w/bicarb, fomepizole Q4h b/c of  CVVH. Anion gap to 12
   this morning and acidosis is resolved after HD and CVVH.  Osmolar gap
   closed
   - CVVH until Ethylene glycol <20
   - monitor electrolytes post d/c CVVH
   - Replete Ca, Mg aggressively
   .
   # Altered Mental status:  Most likely initially due to ethylene glycol
   toxicity, now with sedation overnight for mechanical ventilation.
   Urine shows oxalate crystals.  CT head at OSH did not show any acute
   changes.  LP was within normal limits at OSH.
   - femoral HD line in placd and patient will  continue to receive CVVH
   until EG cleared. [**Month (only) 11**] need HD afterward if UO does not restart
   - ethylene glycol level on presentation 314, trending levels [**Hospital1 **] to TID
   (send to [**Hospital1 1910**] [**Telephone/Fax (1) 2534**] or [**Telephone/Fax (1) 2535**]). [**11-28**] 3am level was 32.
   -q6h  lytes while on CVVH
   - thiamine 100 mg daily, folic acid 1mg daily and pyridoxine 100mg
   daily
   - fomipezole 10 mg/kg q4h during CVVH
   -continue propofol, weaning as tolerated, titrate for agitation.
   - appreciate toxicology recs
   - appreciate nephrology recs.
   .
   # Hyperkalemia:  K of 6 with tented T waves on presentation. K improved
   w/HD and correction of academia.
   - to follow lytes after CVVH finished
   .
   # Acute renal failure:  With normal BUN suggestive for intrinsic renal
   disease secondary to ethylene glycol toxicity. Cr stable in low 3s.
   Nephrology following. Given IVF yesterday with lasix 120mg IV with only
   50 cc UO.
   - appreciate nephrology recs
   - continue CVVH with goal to remove 1L negative today
   - q6h electrolytes check
   .
   # s/p fall: Currently on hard collar.  CT head at OSH without sig
   abnormalities and poor quality neck films.
   - switched collar to [**Location (un) 239**]-J until able to clinically clear
   - consider imaging if unable to clinically clear
   .
   # Atrial fibrillation:  Unclear etiology. Rapid ventricular response
   resolved throughout the night w/sedation, HD, hydration.  B-blocker
   held due to recent cocaine use, holding off on CCB for now given this
   is probably physiologic response to keep his CO adequate.
   - returned to NSR [**11-27**] to [**11-28**]
   - echo: [**11-27**], Preserved regional and global biventricular systolic
   function. No structural valvular disease.
   .
   # Elevated WBC:  Elevated lactate Could be falsely elevated due to
   ethylene glycol toxicity, lactate level now normal.  However given
   elevated WBC to 40 needs to rule out infection.  LP unremarkable as
   above.  CXR with LUL infiltrate. UA w/moderate bacteria but no WBC.
   - Ceftriaxone and flagyl to cover for PNA, most likely aspiration to
   complete a 5 day course
   - follow BCx
   - follow UCx
   .
   # Leukocytosis/LUL infiltrate:  No bandemia.  LUL CXR as above.  Other
   workup as above.
   - trend with diff
   - CTX and flagyl
   .
   # Coccaine abuse/Depression:
   - CK now normal at 155.
   - needs social work and psychiatry involvement once out of acute phase
   .
   #UGI bleeding: blood from NG tube before patient self-d/c.  None since
   first day of admission
   - [**Hospital1 **] PPI
   - OG was placed
   .
   # FEN:  NPO for now, when has BM and concern for ileus resolves get
   nutrition consult for TF
   .
   # Prophylaxis:  sc heparin, pneumoboots, [**Hospital1 **] PPI, BM reg
   .
   #Access: L  PICC [**11-28**], R a line, R fem HD line
   .
   # Code:  Full Code
   .
   # Contact: Sister [**Name (NI) 107**] [**Name (NI) 2536**] [**Telephone/Fax (1) 2537**], Mother [**Name (NI) 141**] [**Name (NI) 2538**]
   [**Telephone/Fax (1) 2539**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   PICC Line - [**2192-11-28**] 10:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-11-29 08:55:00 Physician Attending Progress Note
Chief Complaint: toxic ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with ethylene glycol ingestion
   24 Hour Events:
 PICC LINE - START [**2192-11-28**] 10:18 AM
   double lumen picc line placed
   Level decreasd to 15 yesterday afternoon.  Fomepizole and CVVH were
   stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-11-28**] 10:00 AM
   Levofloxacin - [**2192-11-28**] 03:00 PM
   Metronidazole - [**2192-11-29**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-28**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-28**] 10:00 PM
   Other medications:
   chlorhexadine
   propofol
   folate
   thiamine
   pyradoxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-29**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 86 (83 - 101) bpm
   BP: 123/70(86) {101/60(74) - 176/90(114)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                  8,744 mL
                                                                    412 mL
   PO:
             TF:
   IVF:
                                                                  8,594 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  9,607 mL
                                                                    662 mL
   Urine:
                                                                     95 mL
                                                                     12 mL
   NG:
                                                                    900 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                   -863 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 551 (550 - 551) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/39/113/26/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   191 K/uL
   96 mg/dL
   4.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   18 mg/dL
   97 mEq/L
   133 mEq/L
   30.4 %
   11.0 K/uL
        [image002.jpg]
                             [**2192-11-28**]  03:07 AM
                             [**2192-11-28**]  04:36 AM
                             [**2192-11-28**]  09:43 AM
                             [**2192-11-28**]  09:56 AM
                             [**2192-11-28**]  03:43 PM
                             [**2192-11-28**]  03:53 PM
                             [**2192-11-28**]  10:07 PM
                             [**2192-11-28**]  10:19 PM
                             [**2192-11-29**]  02:06 AM
                             [**2192-11-29**]  03:32 AM
   WBC
   11.7
   11.0
   Hct
   29.6
   30.4
   Plt
   185
   191
   Cr
   3.0
   3.3
   3.8
   4.5
   TCO2
   24
   26
   27
   27
   25
   25
   Glucose
   90
   86
   110
   106
   94
   96
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:155/8/<0.01, ALT / AST:14/25, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:82.7 %, Lymph:12.3 %, Mono:4.4 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:262 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory failure: Hypoxemic, has been very positive since admission,
   and CXR with evidence of mild edema on PEEP of 10.  Will get HD today
   to remove fluid.  After which we will
   try to wake up and extubate.
   Ethlyene glycol:  levels <20, fomepizole stopped.
   acute renal failure:  should eventually recover but HD for now to get
   off fluid.
   Neck brace:  will need to wake up before clearing C-spine.
   aspiration PNA:  continue 7 day course of levo/flagyl.
   AFIb:  Echo normla, now back in sinus rhythm.
   Will stop NG tube suction and follow for residuals.
   ICU Care
   Nutrition: NPO currently
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   PICC Line - [**2192-11-28**] 10:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Father and mother will be spokespersons
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2192-11-30 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
     * Fever to 101.1
 UA, UCx, BCx, Sputum Cx
     * UA positive, UCx pending
     * decreased propofol, patient developed vertical nystagmus
     * weaned vent [**7-31**] -> [**4-30**] -> became tachypnic and tachycardic, O2 sats
       remained fine, but respiratory therapy was concerned so patient put
       back on [**9-30**] and did well.
     * had HD, pm lytes that were improved (Cr down to 4.0 from 4.5)
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Levofloxacin
   Metronidazole
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-30**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 88 (78 - 109) bpm
   BP: 156/81(103) {101/57(73) - 156/84(107)} mmHg
   RR: 25 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                  1,515 mL
                                                                    392 mL
   PO:
             TF:
   IVF:
                                                                  1,425 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  5,212 mL
                                                                     25 mL
   Urine:
                                                                     12 mL
                                                                     25 mL
   NG:
                                                                  1,200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,697 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 551 (551 - 551) mL
   Vt (Spontaneous): 352 (352 - 593) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/44/95.[**Numeric Identifier **]/26/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen:  sedated and intubated, not opening eyes or responding to tactile
   or painful stimuli
   HEENT:  Pupils round, mucous membranes moist, ET and OG tube in place
   Neck: [**Location (un) 239**] J collar in place
   Heart:  S1S2 regular rate, regular, no murmur or rubs
   Lungs:  B/L coarse BS in anterior lung fields
   Abdomen:  Soft, No grimace with palpation, nondistended, OG to suction
   Ext:  WWP, DP 2+ b/l, 1+ pitting edema at ankles- overall looks fluid
   up compared to day of presentation
   Neuro:  Sedated, not following commands, moves all extremities and
   withdraws from pain
   Labs / Radiology
   222 K/uL
   11.6 g/dL
   95 mg/dL
   5.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   23 mg/dL
   100 mEq/L
   137 mEq/L
   30.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2192-11-28**]  03:43 PM
                             [**2192-11-28**]  03:53 PM
                             [**2192-11-28**]  10:07 PM
                             [**2192-11-28**]  10:19 PM
                             [**2192-11-29**]  02:06 AM
                             [**2192-11-29**]  03:32 AM
                             [**2192-11-29**]  05:39 PM
                             [**2192-11-29**]  08:00 PM
                             [**2192-11-30**]  03:23 AM
                             [**2192-11-30**]  03:35 AM
   WBC
   11.7
   11.0
   13.9
   Hct
   29.6
   30.4
   30.5
   Plt
   185
   191
   222
   Cr
   3.3
   3.8
   4.5
   4.0
   5.1
   TCO2
   27
   25
   25
   26
   28
   Glucose
   110
   106
   94
   96
   94
   95
   Other labs: Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   UA: >50 RBC, 21-50 WBC, moderate bacteria
   BCx [**11-26**], [**11-30**], UCx pending
   8pm sputum gram stain = contaimination
   Assessment and Plan:  37 y/o gentleman with depression, prior suicidal
   ideation and substance abuse presented with altered mental status.
   .
   # Acid/base disturbance:   Resolved.  Presented with Anion gap
   metabolic acidosis with increased osmolarity to 373 consistent with
   ethylene glycol toxicity.  Osmol gap resolved, electrolytes normalized
   and EG levels below 20 so CVVHD and fomepizole stopped. Creatinine
   however continues to rise and he will likely need HD as this is
   probably and intrarenal problem caused by ethylene glycol.
   - nephrology following
   - f/u renal recs - HD tomorrow?
   - monitor electrolytes (labs drawn during HD)
   - caution with IVF as patient appears clinically fluid overloaded.
   # Altered Mental status:  Likely due to toxicity, although patient was
   also taking a number of pain and psych meds including percocet.  CT
   head and LP at OSH did not show any acute changes.  Currently weaning
   Propofol drip with intermittent episodes of agitation and increased
   responsiveness (as per nursing staff) with weaning. Will continue to
   wean off Propofol as tolerated with hopes of extubation today if
   successful.
   -          HD today
   -          Continue to wean Propofol as tolerated
   -          Restraints by bedside
   -          Haldol prn agitation
   -          Patient will need psych consult and sitter when conscious
   .
   # Acute renal failure:  Making very little urine and Cr steadily
   increasing, intrinsic renal is the key issue. Renal service feels
   patient would benefit from ongoing HD today both for renal failure and
   volume overload. Will continue to follow electrolytes and replete as
   needed with HD.
   - speak w/nephrology RE likely long-term need for dialysis
   - monitor electrolytes and follow Cr for improvement
   .
   # Aspiration pneumonia:  Aspiration pneumonia on cxr, c/w history, elev
   WBC, low grade temps.  WBC trending down. Low grade fever on occasion
   over the last 3 days could be due to resolving pna or UTI (see below).
   Was on ceftriaxone and flagyl to but switched to levoquin while pt on
   CVVH and receiving frequent doses of IV calcium b/c Ceftriaxone
   precipitates with calcium. CVVH d/c now, so can re-start Ceftriaxone,
   which may cover UTI better.
   - d/c flagyl, do not need to cover anaerobes in setting of new
   aspiration pneumonia.
   - follow BCx
   - follow CXR
   - trend fever curve
   # Positive UA: Has foley since admission. Has been febrile on Levoquin,
   Flagyl. To change antibiotics to Ceftriaxone, may cover UTI better.
   - follow UCx, tailor antibiotics based on results.
   .
   # s/p fall: Currently on hard collar.  Will wean of sedation will
   clinically clear prior to removal.
   - consider imaging if unable to clinically clear
   .
   # Atrial fibrillation:  Spontaneously reverted to sinus rhythm with
   stable rates. Echo does not show structural abnormalities.
   .
   # Hyperkalemia:  resolved
   .
   # Cocaine abuse/Depression:
   -          social work following, appreciate recs and support
   -          will need psych when extubateed
   .
   #UGI bleeding: OG to suction was bringing back bilious drainage; On
   PPI. Has not had any bloody drainage. Clamped yesterday w/out problem.
   - [**Hospital1 **] to QD
   - OG to clamp
   - to monitor
   .
   # FEN:  Has been NPO for 3 days. OG clamped.  PO when extubated as
   mental status allows.  Replete electrolytes. Will need to consult
   nutrition if patient is not able to be extubated or taking OG feeds by
   tomorrow.
   .
   # Prophylaxis:  sc heparin, pneumoboots, PPI, BM regimen
   .
   #Access: L  PICC [**11-28**], R a line, R fem HD line
   .
   # Code:  Full Code
   .
   # Contact: Sister [**Name (NI) 107**] [**Name (NI) 2536**] [**Telephone/Fax (1) 2537**], Mother [**Name (NI) 141**] [**Name (NI) 2538**]
   [**Telephone/Fax (1) 2539**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   PICC Line - [**2192-11-28**] 10:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-11-30 09:43:00 Physician Attending Progress Note
Chief Complaint: Ingestion
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2192-11-30**] 12:30 AM
 SPUTUM CULTURE - At [**2192-11-30**] 12:30 AM
 URINE CULTURE - At [**2192-11-30**] 12:30 AM
 FEVER - 101.1
F - [**2192-11-30**] 12:00 AM
   Dialysis completed yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-11-28**] 10:00 AM
   Levofloxacin - [**2192-11-29**] 04:40 PM
   Metronidazole - [**2192-11-30**] 08:04 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-30**] 09:00 AM
   Pantoprazole (Protonix) - [**2192-11-30**] 09:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2192-11-30**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37
C (98.6
   HR: 78 (75 - 109) bpm
   BP: 151/73(95) {104/57(73) - 156/84(107)} mmHg
   RR: 23 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 95 kg
   Height: 70 Inch
             Total In:
                                                                  1,515 mL
                                                                    585 mL
   PO:
             TF:
   IVF:
                                                                  1,425 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                  5,212 mL
                                                                     25 mL
   Urine:
                                                                     12 mL
                                                                     25 mL
   NG:
                                                                  1,200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,697 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 551 (551 - 551) mL
   Vt (Spontaneous): 420 (352 - 593) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 10 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/44/95.[**Numeric Identifier **]/26/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Per nursing across the night--patient will respond to
   verbal commands with Propofol decreased, not following commands at this
   time.
   Labs / Radiology
   11.6 g/dL
   222 K/uL
   95 mg/dL
   5.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   23 mg/dL
   100 mEq/L
   137 mEq/L
   30.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2192-11-28**]  03:43 PM
                             [**2192-11-28**]  03:53 PM
                             [**2192-11-28**]  10:07 PM
                             [**2192-11-28**]  10:19 PM
                             [**2192-11-29**]  02:06 AM
                             [**2192-11-29**]  03:32 AM
                             [**2192-11-29**]  05:39 PM
                             [**2192-11-29**]  08:00 PM
                             [**2192-11-30**]  03:23 AM
                             [**2192-11-30**]  03:35 AM
   WBC
   11.7
   11.0
   13.9
   Hct
   29.6
   30.4
   30.5
   Plt
   185
   191
   222
   Cr
   3.3
   3.8
   4.5
   4.0
   5.1
   TCO2
   27
   25
   25
   26
   28
   Glucose
   110
   106
   94
   96
   94
   95
   Other labs: PT / PTT / INR:13.4/32.4/1.1, CK / CKMB /
   Troponin-T:155/8/<0.01, ALT / AST:14/25, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:82.7 %, Lymph:12.3 %, Mono:4.4 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:262 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: 7.39/44/99
   Imaging: CXR--ETT at 6-8 cm above carina, PICC in place and OGT in good
   position
   Assessment and Plan
   37 yo male admitted with Ethylene Glycol ingestion and now with course
   complicated by persistent respiratory failure and renal failure with
   mental status as primary limiting factor contributing to persistent
   respiratory failure.  He has had continued issues of fever through to
   this morning and slow return to organized mental status.  He does,
   however, have good tolerance of ventilatory wean with favorable
   pulmonary mechanics and reassuring blood gases.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-
   -Levoflox/Flagyl continuting
   -Patient continues to be able to follow simple commands but with slow
   response time
   -Secretions moderate and thin
   -Patient with favorable RSBI on [**4-30**] which is not specific for success
   with extubation
   -Extubation today
   -Tachypnea will be evaluated with ABG
   2) .H/O POISONING / OVERDOSE, OTHER-
   -Dialysis per Renal schedule with plan for dialysis tomorrow
   3)  RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Will pursue cultures from catheter
   -Dialysis tomorrow
   4)  ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Folate/Thiamine
   -Propofol to wean to off today
   -Move to extubation today
   -Would not expect altered mental status from initial ingestion
   -Seroquel PRN following extubation or if agitated peri-extubation
   ICU Care
   Nutrition: npo peri-extubation
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2192-11-26**] 04:37 PM
   Arterial Line - [**2192-11-26**] 08:12 PM
   PICC Line - [**2192-11-28**] 10:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes